US08912200B2
Step 20: 5-(2-Amino-pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-4-iodo-1H-pyrrole-3-carboxamide (XXIV)
5-(2-Amino-pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxamide (1.1 g, 3.36 mmol) in dry DMF (6 mL) was treated with solid N-iodosuccinimide (830 mg, 3.69 mmol), stirred at room temperature for 4.5 h and poured into iced water (150 mL). The solid was then filtered with suction, washed thoroughly with water, dried in an oven under vacuum at 50° C. and purified by flash chromatography over silica gel (DCM/MeOH/7 N NH3 in MeOH 95/5/0.5) to afford the title compound (654 mg, 43%).

reactant | 5-(2-Amino-pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxamide | 3.36 mmol, 1.1 g | NC1=NC=CC(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C(=O)N | C16H14ClN5O
reactant | N-iodosuccinimide | 3.69 mmol, 830 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | water | 150 mL | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 5-(2-Amino-pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-4-iodo-1H-pyrrole-3-carboxamide | 654 mg, 43% | NC1=NC=CC(=N1)C1=C(C(=C(N1)C1=C(C=CC(=C1)Cl)C)C(=O)N)I | C16H13ClIN5O
